US08124610B2
4-Iodo-N-(thiazol-2-yl)benzenesulfonamide
4-Iodobenzenesulfonyl chloride (1.8 g, 6.0 mmol, 1.0 equiv) was added portion-wise to a 0° C. solution of 2-aminothiazole (654 mg, 6.53 mmol, 1.1 equiv) in 4.91 mL of anhydrous pyridine. After addition was complete, the reaction mixture was warmed to ambient temperature. After 3 d, the reaction mixture was concentrated in vacuo. The residue was treated with methanol and ether to precipitate the product. The solid was collected by filtration, washing with ether, to afford the product as a light brown solid (1.18 g, 49%).

reactant | 4-Iodobenzenesulfonyl chloride | 6.0 mmol, 1.8 g, 1.0 equiv | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | 2-aminothiazole | 6.53 mmol, 654 mg, 1.1 equiv | NC=1SC=CN1 | C3H4N2S
solvent | pyridine | 4.91 mL | N1=CC=CC=C1 | C5H5N
product | 4-Iodo-N-(thiazol-2-yl)benzenesulfonamide | 1.18 g, 49% | IC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7IN2O2S2
